US07141561B2
1-[3-Amino-4-(2-dimethylaminoethylamino)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
Zinc dust (250 mg) was added to a solution of 1-[4-(2-dimethylamino-ethylamino)-3-nitrophenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (50 mg) in dichloromethane (10 ml) and glacial acetic acid (1 ml). After 10 minutes, solids were removed by filtration and the filtrate was washed with saturated sodium carbonate solution. The organic phase was dried over magnesium sulfate and concentrated. The product with the molecular weight of 429.53 (C25H27N5O2); MS (ESI): 430 ([M+H]+), was obtained in this way.

reactant | 1-[4-(2-dimethylamino-ethylamino)-3-nitrophenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 50 mg | CN(CCNC1=C(C=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)[N+](=O)[O-])C | C25H25N5O4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 250 mg | [Zn] | Zn
product | 1-[3-Amino-4-(2-dimethylaminoethylamino)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | NC=1C=C(C=CC1NCCN(C)C)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C25H27N5O2
